US05849769
Starting materials 3-acetyl-6-amino-2-bromopyridine and 2-(2-chloro-3-ethoxy-6-fluorophenyl)-cyclopropylisocyanate, were prepared in following manner: 5 g of 2-Bromo-3-pyridinol (Aldrich) was added to a mixture of 25 ml of conc. H2SO4 and 25 ml of fuming HNO3 at 0° C. The mixture was stirred one hour at that temperature, then added to 350 ml of crushed ice and extracted with CH2Cl2. The extract was dried with Na2SO4 and evaporated in vacuo to yield 4.1 g of a crude product as a mixture of 2-bromo-6-nitro-3-pyridinol and 2-bromo-4,6-dinitro-3-pyridinol. The mixture (0.5 g) was treated with an excess of acetic anhydride at room temperature at 24 hours, then separated on a silica-gel column eluated with mixtures of hexane and ethylacetate to yield 0.28 g of 2-bromo-6-nitro-3-pyridinol as a yellowish solid. 2-Bromo-6-nitro-3-pyridinol was then treated with acetic anhydride at 80° C. at 14 hours under an atmosphere of nitrogen to yield 0.34 g of 3-acetyl-2-bromo-6-nitropyridine as a yellow solid. Hydrogenation of 3-acetyl-2-bromo-6-nitropyridine in ethanol (Pt on C, 1 atm) gave 3-acetyl-6-amino-2-bromopyridine as a reddish oil. The cis/trans mixture of 2-(2-chloro-3-ethoxy-6-fluorophenyl)cyclopropylisocyanates were prepared from 2-chloro-4-fluorophenol (Aldrich) in manner analogous to Examples 362, 375 and 348 of WO 93/03022. This product was then condensed with 3-acetyl-6-amino-2-bromopyridine in a manner analogous to the method in Example 7 to provide cis/trans mixture of N-2-(2-Chloro-3-ethoxy-6-fluorophenyl)-cyclopropyl-N'-(6-bromo-5-hydroxypyrid-2-yl)-ureas. The two products were separated on a silica-gel column eluated with mixtures of hexane and ethylacetate to yield the titled compound as a white solid: 1H NMR (250 MHz, CDCl3) δ 7.85 (d, 1H), 7.55 (br s, 1H), 6.98-6.72 (m, 2H), 4.04 (q, 2H), 3.27-3.04 (m, 1H), 2.18 (q, 1H), 1.74-1.65 H (m, 1H), 1.43 (t, 3H), 0.92-0.80 (m, 2H).

reactant | 2-Bromo-6-nitro-3-pyridinol | BrC1=NC(=CC=C1O)[N+](=O)[O-] | C5H3BrN2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyl-2-bromo-6-nitropyridine | 0.34 g | C(C)(=O)C=1C(=NC(=CC1)[N+](=O)[O-])Br | C7H5BrN2O3
